US04355040
2 g of 1-benzyl-4-chloro-5-cyanomethyl-2-(4-dimethylaminophenyl)imidazole and 1 g of N-chlorosuccinimide were stirred in 30 ml of dioxane at 50° C. for 2 hours. The reaction solution was evaporated to dryness under reduced pressure, and the residue was dissolved in 100 ml of chloroform, followed by washing twice with water and evaporating to dryness under reduced pressure. The residue was recrystallized twice from 20 ml of methanol, thus yielding 1.4 g of 1-benzyl-4-chloro-5-cyanomethyl-2-(4-dimethylamino-3-chlorophenyl)imidazole as slightly yellow, needle-formed crystals, m.p. 142°-143° C.

reactant | 1-benzyl-4-chloro-5-cyanomethyl-2-(4-dimethylaminophenyl)imidazole | 2 g | C(C1=CC=CC=C1)N1C(=NC(=C1CC#N)Cl)C1=CC=C(C=C1)N(C)C | C20H19ClN4
reactant | N-chlorosuccinimide | 1 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 1-benzyl-4-chloro-5-cyanomethyl-2-(4-dimethylamino-3-chlorophenyl)imidazole | 1.4 g | C(C1=CC=CC=C1)N1C(=NC(=C1CC#N)Cl)C1=CC(=C(C=C1)N(C)C)Cl | C20H18Cl2N4
